US08039493B2
In analogy to example 1, step 3, N-(3-bromo-benzyl)-2-chloro-N-isobutyl-benzenesulfonamide was reacted with (3-methylsulfonylphenyl)-boronic acid, Na2CO3 and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium dichloromethane adduct in dioxane/water to give 2-chloro-N-isobutyl-N-(3′-methanesulfonyl-biphenyl-3-ylmethyl)-benzenesulfonamide as a colorless solid. MS: 550.2 ([M+OAc]−)

reactant | N-(3-bromo-benzyl)-2-chloro-N-isobutyl-benzenesulfonamide | BrC=1C=C(CN(S(=O)(=O)C2=C(C=CC=C2)Cl)CC(C)C)C=CC1 | C17H19BrClNO2S
reactant | (3-methylsulfonylphenyl)-boronic acid | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane water | O1CCOCC1.O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium dichloromethane | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 2-chloro-N-isobutyl-N-(3′-methanesulfonyl-biphenyl-3-ylmethyl)-benzenesulfonamide | ClC1=C(C=CC=C1)S(=O)(=O)N(CC=1C=C(C=CC1)C1=CC(=CC=C1)S(=O)(=O)C)CC(C)C | C24H26ClNO4S2
